US08377895B2
Preparation of 5,7-dihydroxy-8-methoxy-2-phenyl-6-(piperazin-1-ylmethyl)-4H-chromen-4-one [Piperazine Wogonin]
The mixture of Wogonin (28.4 g), methanol (350 ml), 37% formaldehyde solution (8.1 ml), piperazine (8.6 g) was stirred under for 4 hours at 55° C., then precipitates were removed by filtration and washed several times with methanol, after drying under reduced pressure at 65° C. to get the product as yellow solid 36.1 g of purity 99.1%. MS: (API-ES) m/z 383.5[M+H]+; 1H NMR (DMSO-d6, 400 MHz) δ 8.13˜8.14 (m, 2H, Ar-2′,6′-H), 7.64˜7.66 (m, 3H, Ar-3′,4′,5′-H), 7.14 (s, 1H, 3-H), 4.43 (s, 2H, CH2), 3.98 (s, 3H, 8-OCH3), 3.36 (s, 4H, CH2), 3.56 (s, 4H, CH2), 1.25 (s, 1H, NH).

reactant | Wogonin | 28.4 g | COC=1C(=CC(=C2C1OC(=CC2=O)C=3C=CC=CC3)O)O | C16H12O5
reactant | formaldehyde | 8.1 ml | C=O | CH2O
reactant | piperazine | 8.6 g | N1CCNCC1 | C4H10N2
solvent | methanol | 350 ml | CO | CH4O
product | 5,7-dihydroxy-8-methoxy-2-phenyl-6-(piperazin-1-ylmethyl)-4H-chromen-4-one | 36.1 g | OC1=C2C(C=C(OC2=C(C(=C1CN1CCNCC1)O)OC)C1=CC=CC=C1)=O | C21H22N2O5
